US06586434B2
Preparation of (4E)-2-(acetylthiomethyl)-2-butylhex-4-enal
To a stirred solution of 2-(acetylthiomethyl)hexanal (32.6 g, 0.173 mole) in 325 ml of xylenes in a 500-mL RBF fitted with a Dean-Stark trap is added 2-hydroxy-3-butene (22.5 mL, 0.259 mole), followed by pyridinium p-toluenesulfonate (4.34 g, 0.017 mole) at room temperature under nitrogen. The mixture is heated to reflux overnight. After cooling to room temperature, the xylenes solution is washed with 300 mL of saturated NaHCO3 solution. The aqueous phase is extracted with 300 mL of ethyl acetate. The combined organic extract is washed with 200 mL of brine and 200 mL of water. After removing solvents, the product is obtained by vacuum distillation (157-160° C./1.5 mmHg) in 80.5% yield.

reactant | 2-(acetylthiomethyl)hexanal | 0.173 mole, 32.6 g | C(C)(=O)SCC(C=O)CCCC | C9H16O2S
reactant | 2-hydroxy-3-butene | 0.259 mole, 22.5 mL | OC(C)C=C | C4H8O
reactant | pyridinium p-toluenesulfonate | 0.017 mole, 4.34 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | (4E)-2-(acetylthiomethyl)-2-butylhex-4-enal | 80.5% yield | C(C)(=O)SCC(C=O)(C\C=C\C)CCCC | C13H22O2S
